US06528504B2
(S)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine (320 mg, 1.37 mmol) was dissolved in dichloromethane (10 ml). Triethylamine (152 mg, 1.50 mmol) and methanesulfonyl chloride (164 mg, 1.43 mmol) were added to the obtained solution under stirring under cooling on ice. They were stirred at 0° C. for 1 hour. The reaction liquid was distributed in dichloromethane and water. The organic layer was dried, and the solvent was evaporated under reduce pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane and then with a solvent mixture (50:1) of dichloromethane and methanol. The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (S)-1-(4-dimethylaminophenethyl)-3-methanesulfonyloxy-pyrrolidine in the form of a light yellow oil (378 mg, 88%).

reactant | (S)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine | 1.37 mmol, 320 mg | CN(C1=CC=C(CCN2C[C@H](CC2)O)C=C1)C | C14H22N2O
reactant | Triethylamine | 1.50 mmol, 152 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.43 mmol, 164 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (S)-1-(4-dimethylaminophenethyl)-3-methanesulfonyloxy-pyrrolidine | CN(C1=CC=C(CCN2C[C@H](CC2)OS(=O)(=O)C)C=C1)C | C15H24N2O3S
